US08455477B2
Cesium carbonate (806 mg, 2.48 mmol), Xantphos (95.0 mg, 0.165 mmol), and tris(dibenzylideneacetone)dipalladium (0) (76.0 mg, 0.082 mmol) were combined into vial fitted with a Teflon septum. The vial was flushed with argon and a solution of 2-(benzyloxy)-6-chloro-4-phenylpyridine (244 mg, 0.825 mmol) in 1,4-dioxane (2 ml) was added, followed by 2,4-dimethoxybenzylamine (0.249 ml 1.65 mmol). The solution was sparged with argon for 10 mins, then heated to 90° C. and stirred for 24 hours. The reaction mixture was cooled down to room temperature, diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted two times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was dissolved in dichloromethane (2.5 mL), and trifluoroacetic acid (2.5 mL, 32.4 mmol) was added. After stirring at room temperature for 1 hour, the solvent was removed under reduced pressure. The residue was dissolved with ethyl acetate, and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted one time with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/ioshexane gradient) to give 6-(benzyloxy)-4-phenylpyridin-2-amine. LRMS (ESI) calculated for C18H17N2O [M+H]+, 277.1; found 277.0.

reactant | Cesium carbonate | 2.48 mmol, 806 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.165 mmol, 95.0 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-(benzyloxy)-6-chloro-4-phenylpyridine | 0.825 mmol, 244 mg | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C1=CC=CC=C1)Cl | C18H14ClNO
reactant | 2,4-dimethoxybenzylamine | 1.65 mmol, 0.249 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | trifluoroacetic acid | 32.4 mmol, 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.082 mmol, 76.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(benzyloxy)-4-phenylpyridin-2-amine | C(C1=CC=CC=C1)OC1=CC(=CC(=N1)N)C1=CC=CC=C1 | C18H16N2O
